US04661636
(c) 4-(1,1-dimethylethyl)-2-methylsulfonylanisole
17.4 g (0.076 mol) of 3-(1,1-dimethylethyl)-6-methoxybenzenesulfinic acid are suspended in 120 ml of acetone, and 13.3 ml (0.095 mol) of triethylamine and 8.5 ml (0.12 mol) of iodomethane are added. The mixture is stirred at room temperature for 2 hours and then poured onto ice-water. The precipitate which separates out is filtered off with suction and recrystallized from N-butanol.

reactant | 3-(1,1-dimethylethyl)-6-methoxybenzenesulfinic acid | 0.076 mol, 17.4 g | CC(C)(C)C=1C=C(C(=CC1)OC)S(=O)O | C11H16O3S
reactant | triethylamine | 0.095 mol, 13.3 ml | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 0.12 mol, 8.5 ml | IC | CH3I
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 4-(1,1-dimethylethyl)-2-methylsulfonylanisole | CC(C)(C)C1=CC(=C(C=C1)OC)S(=O)(=O)C | C12H18O3S
